US07442839B2
ii) 3-Bromophenyl cyclohexyl sulfone
A stirred solution of 3-bromophenyl cyclohexyl sulfide (3.89 g) in DCM (200 ml) under nitrogen was treated with meta-chloroperbenzoic acid (57% pure, 8.69 g), and stirred at room temperature for 1.5 h. The reaction mixture was poured into water and washed with aqueous sodium sulphite until no peracid remained. The organic phase was washed with brine and dried (MgSO4). Filtration and removal of the solvent under reduced pressure gave the title compound (3.63 g). LCMS RT=3.33 min.

reactant | 3-bromophenyl cyclohexyl sulfide | 3.89 g | C1(CCCCC1)SC1=CC(=CC=C1)Br | C12H15BrS
reactant | meta-chloroperbenzoic acid | 8.69 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | O | H2O
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | 3-Bromophenyl cyclohexyl sulfone | 3.63 g | C1(CCCCC1)S(=O)(=O)C1=CC(=CC=C1)Br | C12H15BrO2S
